US04455422
26.8 Grams of 8-methoxy-5-(3-chloropropionyl)-3,4-dihydrocarbostyril and 16.5 g of sodium iodide were dissolved in 200 ml of dimethylformamide and the mixture was stirred at 40° C. for 1 hour. Then 11.1 g triethyl amine and 17.1 g of 4-phenylpiperazine were added to the mixture and stirred at 40° C. for 2 hours additionally. The reaction mixture was concentrated under a reduced pressure to obtain a residue. Then a 5%-sodium hydrogencarbonate aqueous solution and ether were added to the residue to obtain crystalline precipitates. The precipitates were collected by filtration and were recrystallized from ethanol to obtain 8-methoxy-5-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril. Yield: 27.5 g.

reactant | 8-methoxy-5-(3-chloropropionyl)-3,4-dihydrocarbostyril | COC=1C=CC(=C2CCC(NC12)=O)C(CCCl)=O | C13H14ClNO3
reactant | sodium iodide | 16.5 g | [I-].[Na+]
reactant | 4-phenylpiperazine | 17.1 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | triethyl amine | 11.1 g | C(C)N(CC)CC | C6H15N
product | 8-methoxy-5-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril | COC=1C=CC(=C2CCC(NC12)=O)C(CCN1CCN(CC1)C1=CC=CC=C1)=O | C23H27N3O3
